US07732461B2
(c) 6,7-Dihydro-5H-thieno[3,2-b]pyran-2-carbaldehyde
2-(1,3-Dioxolan-2-yl)-6,7-dihydro-5H-thieno[3,2-b]pyran (0.48 g, 2.24 mmol) was dissolved in acetone (25 ml) and water (25 drops) and stirred with polystyrene-sulfonic acid resin (MP-TsOH, Argonaut Technologies inc, 1.35 mmol/g, 200 mg, 0.27 mmol) overnight. The reaction mixture was filtered, the filtrate evaporated and azeotroped with toluene. The title compound was obtained as a pale orange oil (0.44 g).

reactant | 2-(1,3-Dioxolan-2-yl)-6,7-dihydro-5H-thieno[3,2-b]pyran | 2.24 mmol, 0.48 g | O1C(OCC1)C1=CC=2OCCCC2S1 | C10H12O3S
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetone | 25 ml | CC(=O)C | C3H6O
catalyst | water | 25 drops | O | H2O
product | 6,7-Dihydro-5H-thieno[3,2-b]pyran-2-carbaldehyde | S1C(=CC=2OCCCC21)C=O | C8H8O2S
